US08304577B2
To a solution of t-butyl (1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethylcarbamate (14.2 g, 39.2 mmol) in dichloromethane (2 mL) was added trifluoroacetic acid (18.1 mL, 235 mmol). The reaction mixture was stirred at room temperature for 1 h. The mixture was concentrated and the residue was transferred to a separatory funnel containing saturated aqueous K2CO3 solution. The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over MgSO4, filtered and concentrated to afford (1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethanamine (9 g, 88% yield) as a yellow oil: 1H NMR (400 MHz, DMSO-d6) δ 7.29 (d, J=8.8 Hz, 2H), 6.88 (d, J=8.6 Hz, 2 H), 3.96 (t, J=6.4 Hz, 1H), 3.80 (dd, J=9.1, 5.5 Hz, 1H), 3.71 (dd, J=9.2, 6.7 Hz, 1H), 3.29-3.39 (m, 2H), 2.59-2.75 (m, 2H), 1.86 (dq, J=12.8, 6.5 Hz, 1H), 1.25-1.48 (m, 3H), 1.12-1.22 (m, 1H), 0.95 (d, J=6.8 Hz, 3H), 0.88 (t, J=7.1 Hz, 3H); HRMS (ESI) m/e 263.1860 [(M+H)+, calcd for C14H23N4O 263.1872].

reactant | t-butyl (1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethylcarbamate | 39.2 mmol, 14.2 g | N(=[N+]=[N-])C[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC(OC(C)(C)C)=O | C19H30N4O3
reactant | trifluoroacetic acid | 235 mmol, 18.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (1R)-2-azido-1-(4-(2-methylpentyloxy)phenyl)ethanamine | 9 g, 88% yield | N(=[N+]=[N-])C[C@H](N)C1=CC=C(C=C1)OCC(CCC)C | C14H22N4O
